US03969411
The reaction apparatus was filled with 2 kg (11.8 mol) of diphenylamine and 200 g (1.74 mol) of phosphoric acid. Methanol was introduced at a rate of 50 ml/h for 40 hours at a reaction temperature of 200°C. The reaction mixture was then cooled to 140°C and the upper phase run-off. 1.822 kg of N-methyldiphenylamine (99.2 %) were obtained.

reactant | diphenylamine | 11.8 mol, 2 kg | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | phosphoric acid | 1.74 mol, 200 g | P(O)(O)(O)=O | H3O4P
reactant | Methanol | CO | CH4O
product | N-methyldiphenylamine | 1.822 kg, 99.2 % | CN(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
